US07342039B2
This compound was produced using similar methods as that used in Step 4, example 6, starting with 2-bromo-4-bromomethyl-benzoic acid methyl ester (0.28 g, 0.91 mmol) and 1,2-dimethyl-1H-indole-3-carbaldehyde oxime (0.18 g, 0.96 mmol). The crude material was purified by flash chromatography through silica gel using ethyl acetate/hexanes (50/50 with 1% formic acid) followed by HPLC (65% acetonitrile in 0.1% trifluoroacetic acid solution) and one final recrystallization from ethyl acetate/hexanes to give 2-bromo-4-[({[(1E)-(1,2-dimethyl-1H-indol-3-yl)methylidene]amino}oxy)methyl]benzoic acid (0.16 g, 45%) as a white solid. mp=165-166° C. 1H NMR (400 MHz, DMSO-d6); δ 13.34 (bs, 1H), 8.53 (s, 1H), 7.88 (d, 1H), 7.78 (s, 1H), 7.75 (d, 1H), 7.51 (d, 1H), 7.44 (d, 1H), 7.16 (t, 1H), 7.08 (t, 1H), 5.17 (s, 2H), 3.67 (s, 3H), 2.47 (s, 3H). Mass spec; (ES+) m/z 401.1, (ES−) m/z 399.0. Elemental analysis; Calculated for C19H17BrN2O3: C, 56.87; H, 4.27; N, 6.98. Found: C, 56.84; H, 4.3; N, 6.92.

reactant | 2-bromo-4-bromomethyl-benzoic acid methyl ester | 0.91 mmol, 0.28 g | COC(C1=C(C=C(C=C1)CBr)Br)=O | C9H8Br2O2
reactant | 1,2-dimethyl-1H-indole-3-carbaldehyde oxime | 0.96 mmol, 0.18 g | CN1C(=C(C2=CC=CC=C12)C=NO)C | C11H12N2O
product | 2-bromo-4-[({[(1E)-(1,2-dimethyl-1H-indol-3-yl)methylidene]amino}oxy)methyl]benzoic acid | 0.16 g, 45% | BrC1=C(C(=O)O)C=CC(=C1)CO/N=C/C1=C(N(C2=CC=CC=C12)C)C | C19H17BrN2O3
